US09216968B2
6-({[2-(Trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid
Methyl 6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate (356 mg) was dissolved in MeOH (10 mL), and 1N aqueous sodium hydroxide solution (2 mL) was added, and the reaction mixture was stirred at room temperature overnight. After MeOH was removed under reduced pressure, water was added to the residue, and the solution was acidified with 1N hydrochloric acid to pH 5 under ice-cooling. The precipitate was collected by filtration to obtain the titled compound (276 mg) as slightly brown powder.

reactant | Methyl 6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate | 356 mg | FC(C1=C(C=CC=C1)C(=O)NC=1C=C(C2=C(NC=N2)C1)C(=O)OC)(F)F | C17H12F3N3O3
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 6-({[2-(Trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid | 276 mg | FC(C1=C(C=CC=C1)C(=O)NC=1C=C(C2=C(NC=N2)C1)C(=O)O)(F)F | C16H10F3N3O3
